US04780538
2.15 milliliters (2.32 grams, 20.0 millimoles) of methyl acetoacetate was added with stirring to 1.42 grams (20.0 millimoles) of homoallylamine cooled in an ice bath and the stirring continued while the mixture was allowed to warm to room temperature and thereafter for three hours to obtain a methyl 2-(3-butenyl)aminocrotonate intermediate product and water by-product in the reaction mixture.

reactant | methyl acetoacetate | 20.0 millimoles, 2.15 milliliters, 2.32 grams | C(CC(=O)C)(=O)OC | C5H8O3
reactant | homoallylamine | 20.0 millimoles, 1.42 grams | C(CC=C)N | C4H9N
solvent | water | O | H2O
product | methyl 2-(3-butenyl)aminocrotonate | C(CC=C)N/C(/C(=O)OC)=C\C | C9H15NO2
